US08138181B2
To a 0° C. solution of 8-((trans)-3-fluoropiperidin-4-yloxy)quinoline dihydrochloride (6.6 g, 26.8 mmol) and TEA (18.7 ml, 134.0 mmol) in 134 mL DCM was added benzyl carbonochloridate (4.4 ml, 29.5 mmol). The reaction mixture was stirred 15 minutes at 0° C., then warmed to ambient temperature and stirred another 16 hours. Water was added, and the mixture was extracted with DCM. The combined extracts were dried (Na2SO4), filtered, and concentrated. The crude was purified on silica gel (Biotage 40M, loaded with 4:1hexanes:ethyl acetate and 500 mL flushed, then gradient to 1:1 hexanes:ethyl acetate) to give (trans)-benzyl 3-fluoro-4-(quinolin-8-yloxy)piperidine-1-carboxylate (5.2 g, 13.67 mmol, 51.01% yield) as an oil. MS APCI (+) m/z 381 (M+1) detected.

reactant | 8-((trans)-3-fluoropiperidin-4-yloxy)quinoline dihydrochloride | 26.8 mmol, 6.6 g | Cl.Cl.F[C@@H]1CNCC[C@H]1OC=1C=CC=C2C=CC=NC12
reactant | benzyl carbonochloridate | 29.5 mmol, 4.4 ml | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 134 mL | C(Cl)Cl | CH2Cl2
product | (trans)-benzyl 3-fluoro-4-(quinolin-8-yloxy)piperidine-1-carboxylate | 13.67 mmol, 5.2 g, 51.01% yield | F[C@@H]1CN(CC[C@H]1OC=1C=CC=C2C=CC=NC12)C(=O)OCC1=CC=CC=C1 | C22H21FN2O3
